data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-c1ccc(F)cc1_2-S(=O)(=O)c1ccccc1_3-Br_4-c1ccc(N(C)C)cc1_5-c1sc(Br)cc1_6-c1ccc(C(F)(F)F)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(Br)","C(=O)(c1ccc(N(C)C)cc1)(c1sc(Br)cc1)","Nc1ccc(C(F)(F)F)cc1"],"products_smiles": ["C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(Br)C(c1ccc(N(C)C)cc1)(c1sc(Br)cc1)Nc1ccc(C(F)(F)F)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(S(=O)(=O)c1ccccc1)=C(O)c1ccc(F)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(Br)C(c1ccc(N(C)C)cc1)(c1sc(Br)cc1)Nc1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(Br)C(c1ccc(N(C)C)cc1)(c1sc(Br)cc1)Nc1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-135_1-c1ccc(OC)cc1_2-c1ccccc1_3-c1ccccc1_4-C(C)(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccccc1)=C(c1ccccc1)C(=O)(C(C)(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccc(OC)cc1)(c1ccccc1)=C(c1ccccc1)C(O)(C(C)(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(c1ccccc1)C(=[O+][Ce-](Cl)(Cl)Cl)(C(C)(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(c1ccccc1)C(O[Ce-](Cl)(Cl)Cl)(C(C)(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(c1ccccc1)C(O)(C(C)(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
